US04176190
3-Sulphamoyl-4-phenoxy-5-[β-(2,5-dimethyl-1-pyrrolyl)-ethyl]-benzoic acid.
A mixture of 3-sulphamoyl-4-phenoxy-5-[β-aminoethyl]-benzoic acid (5.0 g=1.35 mmols; see Example 3 for the preparation), acetonylacetone (1.85 g, approximately 16.2 mmols) and hexamethylphosphoric acid triamide (Hexametapol; 25 ml) is warmed at 100° for 30 minutes under N2 in an apparatus which has been protected against incident light by covering it with aluminium foil, and the reaction solution is worked up as follows, with strict exclusion of light throughout: pouring into ice-water (50 ml) and extracting with ethyl acetate, washing the extract with water, drying and filtering and evaporating the filtrate. The crude product is recrystallised from chloroform/cyclohexane with the addition of active charcoal and gives pale orange-coloured, light-sensitive crystals, melting point>210° (decomposition).

reactant | 3-sulphamoyl-4-phenoxy-5-[β-aminoethyl]-benzoic acid | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)CCN | C15H16N2O5S
reactant | acetonylacetone | approximately 16.2 mmols, 1.85 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | aluminium | [Al] | Al
solvent | hexamethylphosphoric acid triamide | 25 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-Sulphamoyl-4-phenoxy-5-[β-(2,5-dimethyl-1-pyrrolyl)-ethyl]-benzoic acid | S(N)(=O)(=O)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)CCN1C(=CC=C1C)C | C21H22N2O5S
